US05077438
Diels-Alder-reaction of propargyl alcohol with dicyclopentadiene (C10H12) to form norbornene carboxaldehyde.

reactant | propargyl alcohol | C(C#C)O | C3H4O
reactant | dicyclopentadiene | C1C=CC2C1C3CC2C=C3 | C10H12
product | norbornene carboxaldehyde | C12(C=CC(CC1)C2)C=O | C8H10O
